US06326382B1
a) 4-[2-[5-Methoxy-1,2-benzisoxazol-3-yl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester
The procedure described in Example 1d was followed using 5-methoxy-3-methyl-1,2-benzisoxazole (0.32 g, 1.96 mmol), 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester (0.70 g, 2.15 mmol), and 1M LDA (2.0 mL, 2.0 mmol) in dry THF (2 mL). After purification, the title compound (0.62 g, 87%) was obtained as a clear oil.

reactant | 5-methoxy-3-methyl-1,2-benzisoxazole | 1.96 mmol, 0.32 g | COC=1C=CC2=C(C(=NO2)C)C1 | C9H9NO2
reactant | 4-iodomethyl-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 2.15 mmol, 0.70 g | ICC1CCN(CC1)C(=O)OC(C)(C)C | C11H20INO2
reactant | LDA | 2.0 mmol, 1M, 2.0 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[2-[5-Methoxy-1,2-benzisoxazol-3-yl]ethyl]-1-piperidinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 0.62 g, 87% | COC=1C=CC2=C(C(=NO2)CCC2CCN(CC2)C(=O)OC(C)(C)C)C1 | C20H28N2O4
